US05834494
5-(3-Thienyl)indoline (D41)
5-(3-Thienyl)indole D40 was reduced in the usual way with sodium cyano borohydride in glacial acetic acid to give the title compound (D41) (1.0 g, 100%).

reactant | 5-(3-Thienyl)indole | S1C=C(C=C1)C=1C=C2C=CNC2=CC1 | C12H9NS
reactant | sodium cyano borohydride | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3-Thienyl)indoline | 1.0 g, 100% | S1C=C(C=C1)C=1C=C2CCNC2=CC1 | C12H11NS
